US08729071B2
To a slurry of methyl 5-chloropyrazine-2-carboxylate (250 mg, 1.45 mmol) in EtOH (5 mL) was added potassium carbonate (300 mg, 2.18 mmol). The resultant solution was stirred at RT for 2 hours. The mixture was concentrated. The residue was partitioned between water and CH2Cl2. The aqueous layer was extracted with CH2Cl2 (3×). The combined organic layers were dried over Na2SO4, filtered and concentrated to afford ethyl 5-ethoxypyrazine-2-carboxylate (110 mg, 39%) as a yellow solid.

reactant | methyl 5-chloropyrazine-2-carboxylate | 1.45 mmol, 250 mg | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | potassium carbonate | 2.18 mmol, 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | EtOH | 5 mL | CCO | C2H6O
product | ethyl 5-ethoxypyrazine-2-carboxylate | 110 mg, 39% | C(C)OC=1N=CC(=NC1)C(=O)OCC | C9H12N2O3
